US08211989B2
Butenolysis of Methyl Oleate
A stainless steel autoclave with a glass liner was equipped with a magnetic stirrer bar and charged with ethyl oleate (0.34 g, 1.1 mmol) and Second Generation Grubbs Catalyst (9.3 mg, 0.11 μmol). The autoclave flushed with argon. The autoclave was evacuated and then pressurised with cis-2-butene to a pressure of 15 psi. The autoclave was heated at 60° C. with stirring overnight. The pressure was then released and ethyl vinyl ether (50 μL) added to the reaction mixture. A sample of the product was trans-esterified with methanol by conventional means and analysis of the trans-esterification product by GC showed a conversion of >85% of the oleic chains to 9-undecenoic chains.

reactant | ethyl oleate | 1.1 mmol, 0.34 g | C(CCCCCCC\C=C/CCCCCCCC)(=O)OCC | C20H38O2
catalyst | Second Generation Grubbs Catalyst | 0.11 μmol, 9.3 mg | Cl[Ru]([P](C1CCCCC1)(C2CCCCC2)C3CCCCC3)(=CC4=CC=CC=C4)(Cl)=C5N(C6=C(C)C=C(C)C=C6C)CCN5C7=C(C)C=C(C)C=C7C
product | Methyl Oleate | C(CCCCCCC\C=C/CCCCCCCC)(=O)OC | C19H36O2
